US08580957B2
To a stirred solution of methyl 3-[(2S,4R)-1-acetyl-2-methyl-4-(3-pyridinylamino)-1,2,3,4-tetrahydro-6-quinolinyl]benzoate (for a preparation see Example 175) (14.5 mg, 0.035 mmol) in methanol (1 mL) was added NaOH (2M in water, 0.5 mL, 1.000 mmol) and the resulting mixture was stirred at room temperature for 100 min then was concentrated under a stream of nitrogen. The residue was dissolved in water (0.2 mL) and methanol (0.8 mL) before being purified by MDAP (modifier: formic acid) to give 3-[(2S,4R)-1-acetyl-2-methyl-4-(3-pyridinylamino)-1,2,3,4-tetrahydro-6-quinolinyl]benzoic acid:formic acid 1:3 (14.3 mg, 85% yield).

reactant | methyl 3-[(2S,4R)-1-acetyl-2-methyl-4-(3-pyridinylamino)-1,2,3,4-tetrahydro-6-quinolinyl]benzoate | C(C)(=O)N1[C@H](C[C@H](C2=CC(=CC=C12)C=1C=C(C(=O)OC)C=CC1)NC=1C=NC=CC1)C | C25H25N3O3
reactant | NaOH | 1.000 mmol, 2M, 0.5 mL | [OH-].[Na+]
solvent | methanol | 1 mL | CO | CH4O
product | 3-[(2S,4R)-1-acetyl-2-methyl-4-(3-pyridinylamino)-1,2,3,4-tetrahydro-6-quinolinyl]benzoic acid formic acid | 14.3 mg, 85% yield | C(C)(=O)N1[C@H](C[C@H](C2=CC(=CC=C12)C=1C=C(C(=O)O)C=CC1)NC=1C=NC=CC1)C.C(=O)O | InChI=1S/C24H23N3O3.CH2O2/c1-15-11-22(26-20-7-4-10-25-14-20)21-13-18(8-9-23(21)27(15)16(2)28)17-5-3-6-19(12-17)24(29)30;2-1-3/h3-10,12-15,22,26H,11H2,1-2H3,(H,29,30);1H,(H,2,3)/t15-,22+;/m0./s1
